US05747517
Preparation of 5-[[4-(3-phenylpropoxy)phenyl]methylene]-2-thioxo-4-thiazolidinone
Under nitrogen purge in a three-neck round bottom flask 4-(3-phenylpropoxy)benzaldehyde (0.79 g, 3.29 mmol) was dissolved in acetic acid (16 ml). To this solution was added sodium acetate (0.94 g, 11.5 mmol) and rhodanine (0.44 g, 3.30 mmol). The reaction mixture was then heated to 100° C. and maintained at this temperature for about three days. The progress of the reaction was monitored by thin layer chromatography (4:1 hexane:ethyl acetate).

reactant | 4-(3-phenylpropoxy)benzaldehyde | 3.29 mmol, 0.79 g | C1(=CC=CC=C1)CCCOC1=CC=C(C=O)C=C1 | C16H16O2
reactant | sodium acetate | 11.5 mmol, 0.94 g | C(C)(=O)[O-].[Na+]
reactant | rhodanine | 3.30 mmol, 0.44 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | hexane | CCCCCC | C6H14
solvent | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[[4-(3-phenylpropoxy)phenyl]methylene]-2-thioxo-4-thiazolidinone | C1(=CC=CC=C1)CCCOC1=CC=C(C=C1)C=C1C(NC(S1)=S)=O | C19H17NO2S2
